* Z:\mnt\design.r\spice\examples\1568.asc
V1 +V 0 5
V2 IN 0 2.5 AC 1
XU1 +V N002 N001 N005 N007 N009 NC_01 0 0 0 N009 N008 N006 N004 N003 +V LT1568
R3 N004 N003 511
R4 IN N004 511
R5 N004 N006 511
C1 N009 0 .1µ
R1 N001 N002 511
R2 IN N001 511
R6 N001 N005 511
.ac oct 100 1 100Meg
.lib LT1568.sub
.backanno
.end
